US07888364B2
75 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to methylamine hydrochloride via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-methylterephthalamide. MS (Q1) 401 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 75 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | methylamine hydrochloride | Cl.CN
product | 2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-methylterephthalamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(=O)NC | C20H15Cl2N3O2
